US05922771
2,2,2-Trifluoro-N-[2-(5-methoxy-2-phenyl-1H-inden-3-yl)ethyl]acetamide
To a solution of 2-(5-methoxy-2-phenyl-1H-inden-3-yl)ethylamine hydrochloride (0.2 g, 0.67 mmol.) and triethylamine (0.34 g, 3.33 mmol.) in a mixture of tetrahydrofuran (2 ml) and chloroform (2 ml) was added dropwise gradually trifluoroacetic anhydride (0.28 g, 1.33 mmol.) under ice-cooling. The mixture was stirred for 20 minutes, then the reaction mixture was poured into water, followed by extracting the organic substance with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution and water, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (ethyl acetate:hexane=1:4) to give the titled compound (0.22 g, yield 92%), m.p.138-139° C. (recrystallized from ethyl acetate/hexane).

reactant | 2-(5-methoxy-2-phenyl-1H-inden-3-yl)ethylamine hydrochloride | 0.67 mmol, 0.2 g | Cl.COC=1C=C2C(=C(CC2=CC1)C1=CC=CC=C1)CCN
reactant | triethylamine | 3.33 mmol, 0.34 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.33 mmol, 0.28 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2,2,2-Trifluoro-N-[2-(5-methoxy-2-phenyl-1H-inden-3-yl)ethyl]acetamide | 0.22 g, yield 92% | FC(C(=O)NCCC1=C(CC2=CC=C(C=C12)OC)C1=CC=CC=C1)(F)F | C20H18F3NO2
